US07884207B2
1-[(4-Chloro-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]cyclobutanol (1.56 g) was combined with a solution of ammonia in methanol (23 mL). The mixture was heated at 150° C. in a pressure vessel for 2 days. A portion of the solvent was removed under vacuum and then the mixture was diluted with additional methanol. A solid was isolated by filtration, washed with methanol, triturated with acetonitrile, and then dried. The material was suspended in water (70 mL). Concentrated hydrochloric acid (1.4 mL) was added and the mixture was heated at 90° C. for 30 minutes. The hot solution was neutralized with solid sodium bicarbonate. The solution was allowed to cool to ambient temperature. A precipitate was isolated by filtration, washed well with water, and then dried to provide 1-[(4-amino-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]cyclobutanol as a white powder, mp 228.0-229.0° C. Anal. Calcd for C18H22N4O C, 69.65; H, 7.14; N, 18.05. Found: C, 69.36; H, 7.24; N, 18.03.

reactant | 1-[(4-Chloro-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]cyclobutanol | 1.56 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCC2)O)CCC | C18H20ClN3O
reactant | ammonia | N | H3N
solvent | methanol | 23 mL | CO | CH4O
product | 1-[(4-amino-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]cyclobutanol | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCC2)O)CCC | C18H22N4O
